US06440957B1
A mixture of 0.51 g of 1-benzylideneamino-2-methylimino-3-propyl-imidazolidine in 15 ml of acetonitrile with 0.36 g of methyliodide is refluxed for ca. one hour and the solvent is evaporated off. The residue is treated with acetonitrile and the solvent is evaporated off. (1-benzylideneamino-3-propyl-imdazolidine-2-yliden)methyl-ammonium iodide is obtained in the form of a powder.

reactant | 1-benzylideneamino-2-methylimino-3-propyl-imidazolidine | 0.51 g | C(C1=CC=CC=C1)=NN1C(N(CC1)CCC)=NC | C14H20N4
reactant | methyliodide | 0.36 g | CI | CH3I
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (1-benzylideneamino-3-propyl-imdazolidine-2-yliden)methyl-ammonium iodide | [I-].C(C1=CC=CC=C1)=NN1C(N(CC1)CCC)=C[NH3+] | InChI=1S/C14H20N4.HI/c1-2-8-17-9-10-18(14(17)11-15)16-12-13-6-4-3-5-7-13;/h3-7,11-12H,2,8-10,15H2,1H3;1H
